### PR TITLE
feat(Topology): continuous surjection from Cantor set to Hilbert cube

### PR DESCRIPTION
**Pull request by vasnesterov**
1. Add `cantorToHilbert`: a continuous surjection from the Cantor space (`ℕ → Bool`) to the Hilbert Cube (`ℕ → unitInterval`).
2. Add auxiliary constructions for homeomorphisms: 
* `Equiv.toHomeomorphOfDiscrete`: any bijection between discrete spaces is a homeomorphism
* `Homeomorph.piCurry`: `(X × Y → Z) ≃ₜ (X → Y → Z)`

This is the first part of the Hausdorff–Alexandroff theorem's proof, the second is #26184.

---

- [x] depends on: #26136
- [x] depends on: #31349

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean [hunk 1]
```diff
@@ -0,0 +1,105 @@
+/-
```
Comment (alreadydone) [inline Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean:1]: Maybe this PR should only include this file (and prerequisites) and not depend on #26136?

Comment (vasnesterov) [reply Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean:1]: This PR uses `ofDigits_continuous` which is proved in #26136

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Topology/Instances/CantorSet.lean [hunk 2]
```diff
@@ -350,3 +350,7 @@ noncomputable def cantorSetEquivNatToBool : cantorSet ≃ (ℕ → Bool) where
 noncomputable def cantorSetHomeomorphNatToBool : cantorSet ≃ₜ (ℕ → Bool) :=
   Homeomorph.symm <| Continuous.homeoOfEquivCompactToT2 (f := cantorSetEquivNatToBool.symm)
     (Continuous.subtype_mk (Continuous.comp continuous_ofDigits (by fun_prop)) _)
+
+/-- The Cantor space is homeomorphic to its countable product. -/
```
Comment (dagurtomas) [inline Mathlib/Topology/Instances/CantorSet.lean]:
```suggestion
/-- The Cantor space is homeomorphic to a countable product of copies of itself. -/
```

File: Mathlib/Analysis/Real/OfDigits.lean [hunk 3]
```diff
@@ -155,6 +155,25 @@ theorem ofDigits_digits {b : ℕ} [NeZero b] {x : ℝ} (hb : 1 < b) (hx : x ∈
...
+theorem ofDigits_SurjOn {b : ℕ} [NeZero b] (hb : 1 < b) :
+    Set.SurjOn (ofDigits (b := b)) Set.univ (Set.Icc 0 1) := by
+  intro y hy
+  by_cases hy' : y ∈ Set.Ico 0 1
+  · use digits y b
+    simp [ofDigits_digits hb hy']
+  · replace hy' : y = 1 := by grind
+    use fun _ ↦ ⟨b - 1, by grind⟩
+    simp only [Set.mem_univ, ofDigits, ofDigitsTerm, hy', true_and, ← inv_pow]
+    rw [Summable.tsum_mul_left]
```
Comment (dagurtomas) [inline Mathlib/Analysis/Real/OfDigits.lean]: This way of writing `1` could be its own lemma

Comment (dagurtomas) [reply Mathlib/Analysis/Real/OfDigits.lean]: I mean this result: `(ofDigits fun x ↦ ⟨b - 1, ⋯⟩) = 1`

**Comment by dagurtomas** [comment]
Closing this, please just work directly on #26184 instead
